Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypotension 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ woman
with a history of GERD, who presents with acute onset malaise,
tachycardia, and fever for 1 day.

The patient states that she felt poorly the day prior to
admission with overall general body aches. She also felt
feverish. She noted a mild headache. She does not report runny
eyes, runny nose, sore throat, back pain, abdominal pain, 
nausea,
vomiting, diarrhea, rashes, paresthesias, or urinary symptoms.

She has no sick contacts, but was recently in ___ (from
___ and was on no malaria prophylaxis and had no
vaccinations prior to her trip, including for yellow fever. 
While
in ___, the patient states that she was in mostly touristy
areas and not in the jungle. However, she may have been bitten 
by
mosquitos. She does not report eating any unusual foods, noting
she primarily ate chicken, fish, and vegetables. She did not eat
beef, pork, or lamb. She was also not around wild animals or 
sick
contacts.
 
 
Past Medical History:
GERD
 
Social History:
___
Family History:
No history of liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: Reviewed in MetaVision  
GENERAL: Tired-appearing middle-aged woman, oriented, no acute
distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,
gallops  
ABD: soft, RUQ tenderness, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
SKIN: warm, dry  
NEURO: tired-appearing, grossly non-focal, moving all 4
extremities with purpose
 
 
Pertinent Results:
ADMISSION LABS
================
___ 03:43PM BLOOD WBC-10.0 RBC-4.74 Hgb-13.6 Hct-40.9 
MCV-86 MCH-28.7 MCHC-33.3 RDW-12.1 RDWSD-38.5 Plt ___
___ 03:43PM BLOOD Neuts-80* Bands-12* Lymphs-5* Monos-3* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-9.20* 
AbsLymp-0.50* AbsMono-0.30 AbsEos-0.00* AbsBaso-0.00*
___ 03:43PM BLOOD ___ PTT-27.5 ___
___ 03:32PM BLOOD Glucose-206* UreaN-9 Creat-1.0 Na-133* 
K-7.8* Cl-99 HCO3-21* AnGap-13
___ 03:43PM BLOOD ALT-133* AST-157* AlkPhos-122* 
TotBili-1.9*
___ 03:43PM BLOOD Albumin-4.0 Calcium-9.6 Phos-1.3* Mg-1.6
___ 02:24AM BLOOD ___ pO2-25* pCO2-37 pH-7.34* 
calTCO2-21 Base XS--6 Intubat-NOT INTUBA
___ 03:44PM BLOOD Lactate-3.6*

PERTINENT LABS
==================
___ 04:37AM BLOOD ___ PTT-42.9* ___
___ 04:37AM BLOOD ___ PTT-42.9* ___
___ 04:37AM BLOOD ALT-581* AST-908* LD(LDH)-1205* 
AlkPhos-149* TotBili-3.5*
___ 09:41PM BLOOD Lactate-3.2*
___ 10:24PM BLOOD Lactate-2.4*
___ 05:32AM BLOOD ___ 09:41PM BLOOD 
Lactate-3.2*
___ 10:24PM BLOOD Lactate-2.4*
___ 05:32AM BLOOD Lactate-14.1*

MICROBIOLOGY
==================
___ CULTUREBlood Culture, 
Routine-PRELIMINARY {GRAM NEGATIVE ROD(S)}; Aerobic Bottle Gram 
Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL

IMAGING
===================
___ RUQUS

IMPRESSION:
 
1. Two predominantly echogenic hepatic lesions measure 
approximately 8.8 x 8.6
x 7 cm and 11.6 x 4.9 x 5.1 cm, the larger of which demonstrates 
a hypoechoic
central area.  These lesions are possibly hepatomas or adenomas.
2. Complex, perihepatic or subcapsular fluid collection, which 
could reflect
hematoma.  .
3. Mild gallbladder wall thickening with adjacent 
pericholecystic fluid may
reflect fluid overload.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of GERD, who 
presents with acute onset malaise, tachycardia, and fever for 1 
day in the setting of recent travel to ___. Ultimately 
became hypotensive requiring Levophed and also found to have 
large hepatic lesions of unclear etiology. She was started on 
board spectrum antibiotics, but quickly decompensated, requiring 
intubation. She went into PEA arrest and unfortunately, did not 
regain ROSC. Her time of death was called at 0757 on ___.

#Shock: 
#Elevated transaminases
#Liver lesion
The patient became progressively hypotensive during her ED stay, 
ultimately requiring use of Levophed. Highest on the 
differential is septic shock given that the patient was also 
febrile, tachycardic, and generally felt unwell. Other types of 
shock to consider include hypovolemic shock, which may be
contributing in the setting of poor PO intake due to illness, 
though this is likely a smaller contributor. Cardiogenic shock 
is much less likely. She was started on vancomycin and zosyn, 
and ID was consulted in the setting of recent travel and 
elevated LFTS who did not recommend further antibiotics. Her 
lactate drastically climbed from 4 to 15 during the course of 
the night and she became increasingly acidotic. She was 
intubated in the setting  of tachypnea. Her blood cultures 
returned within 12 hours positive for GNRs. Despite broad 
spectrum antibiotics, she quickly decompensated and experienced 
bradycardia and subsequent arrest. A code blue was called and 
initiated. Unfortunately, ROSC was not obtained. Time of death 
was called at 0757. Her husband was at bedside. The medical 
examiner was notified and denied autopsy. The husband elected 
for autopsy. At this time, the cause of death is suspected to be 
from GNR bacteremia of unclear etiology.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 20 mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
n/a
 
Discharge Instructions:
n/a
 
Followup Instructions:
___